US04036965
To the stirred mixture of 9 g of 5-(m-chlorobenzylsulfinyl)-2-pyridinecarboxylic acid methyl ester and 40 ml of N aqueous sodium hydroxide methanol is added until dissolution occurs. The solution is heated at the steam bath for 10 minutes and stirred overnight at room temperature. It is evaporated, the residue taken up in the minimum amount of hot water, the solution filtered, the filtrate cooled and the precipitate formed collected, to yield the sodium 5-(m-chlorobenzylsulfinyl)-2-pyridinecarboxylate.

reactant | 5-(m-chlorobenzylsulfinyl)-2-pyridinecarboxylic acid methyl ester | 9 g | COC(=O)C1=NC=C(C=C1)S(=O)CC1=CC(=CC=C1)Cl | C14H12ClNO3S
reactant | sodium hydroxide methanol | CO.[OH-].[Na+]
product | sodium 5-(m-chlorobenzylsulfinyl)-2-pyridinecarboxylate | ClC=1C=C(CS(=O)C=2C=CC(=NC2)C(=O)[O-])C=CC1.[Na+] | InChI=1S/C13H10ClNO3S.Na/c14-10-3-1-2-9(6-10)8-19(18)11-4-5-12(13(16)17)15-7-11;/h1-7H,8H2,(H,16,17);/q;+1/p-1
